US08049016B2
Synthesis of N-benzyl-2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxamide
To a solution of 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxylic acid in N,N-dimethylformamide is added N,N-diisopropylethylamine, followed by the addition of 1-hydroxybenzotriazole monohydrate and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. The resulting mixture is stirred for 10 minutes and followed by the addition of benzylamine at ambient temperature. After stirred at ambient temperature for an additional 17 h, the mixture is concentrated in vacuo. The residue is poured into a saturated aqueous solution of sodium bicarbonate and then extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium bicarbonate solution, water and brine, dried over sodium sulfate, and filtered. The filtrate is concentrated and purified by column chromatography to afford the title compound.

reactant | 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C3=C2C=CC=C3)C=3SC(=C(N3)C)C(=O)O)=O)C=C1 | C19H14FN3O3S
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole monohydrate | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-benzyl-2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazol-1-yl)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(C2=C1C=CC=C2)CC2=CC=C(C=C2)F)=O)C | C26H21FN4O2S
